US04618677
The procedure described in Example 2 was followed, using 1.4 g of phenyl isocyanate, 4.0 g of 3-(4-phenethylpiperazin-1-yl)propanethiol dihydrochloride, 2.4 g of triethylamine and 50 ml of methylene chloride, to give 1.9 g (35% of theory) of N-phenyl-S-[3-(4-phenethylpiperazin-1-yl)propyl]thiocarbamate dihydrochloride monohydrate as a white crystalline solid, M.p. 272°-275° C.

reactant | phenyl isocyanate | 1.4 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-(4-phenethylpiperazin-1-yl)propanethiol dihydrochloride | 4.0 g | Cl.Cl.C(CC1=CC=CC=C1)N1CCN(CC1)CCCS
reactant | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-phenyl-S-[3-(4-phenethylpiperazin-1-yl)propyl]thiocarbamate dihydrochloride monohydrate | 1.9 g, 35% | O.Cl.Cl.C1(=CC=CC=C1)NC(O)=SCCCN1CCN(CC1)CCC1=CC=CC=C1 | InChI=1S/C22H31N3OS.2ClH.H2O/c26-22(23-21-10-5-2-6-11-21)27-19-7-13-24-15-17-25(18-16-24)14-12-20-8-3-1-4-9-20;;;/h1-6,8-11,23,26-27H,7,12-19H2;2*1H;1H2
